US08309580B2
(1) 5-(4-methoxy-2-methylphenyl)-2-methylfuran-3-carbaldehyde
A mixture of 5-bromo-2-methylfuran-3-carbaldehyde (1.5 g), 4-methoxy-2-methylphenylboronic acid (1.7 g), tetrakis(triphenylphosphine)palladium(0) (0.5 g), 2N aqueous sodium carbonate solution (10 mL) and 1,2-dimethoxyethane (20 mL) was stirred overnight with refluxing under an argon atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 20% ethyl acetate/hexane), and crystallized from ethyl acetate/hexane to give the title compound (1.7 g, 94%) as a pale-yellow solid.

reactant | 5-bromo-2-methylfuran-3-carbaldehyde | 1.5 g | BrC1=CC(=C(O1)C)C=O | C6H5BrO2
reactant | 4-methoxy-2-methylphenylboronic acid | 1.7 g | COC1=CC(=C(C=C1)B(O)O)C | C8H11BO3
reactant | sodium carbonate | 2N, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 5-(4-methoxy-2-methylphenyl)-2-methylfuran-3-carbaldehyde | 1.7 g, 94% | COC1=CC(=C(C=C1)C1=CC(=C(O1)C)C=O)C | C14H14O3
